US08232286B2
8-PHENYL-4,5-DIHYDRO-THIAZOLO[4,5-h]QUINAZOLIN-2-YLAMINE
9.0 g (28 mmol) N-(8-phenyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-2-yl)-acetamide (prepared analogously to Example 64) are refluxed for 2 hours in 130 ml semi-concentrated hydrochloric acid. After cooling the reaction mixture is made basic, the precipitate formed is suction filtered and dried. Yield: 7.3 g

reactant | N-(8-phenyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-2-yl)-acetamide | 28 mmol, 9.0 g | C1(=CC=CC=C1)C1=NC=2C3=C(CCC2C=N1)N=C(S3)NC(C)=O | C17H14N4OS
solvent | hydrochloric acid | 130 ml | Cl | ClH
product | 8-PHENYL-4,5-DIHYDRO-THIAZOLO[4,5-h]QUINAZOLIN-2-YLAMINE | C1(=CC=CC=C1)C1=NC=2C3=C(CCC2C=N1)N=C(S3)N | C15H12N4S
